US05663053
4,5-Di-(4-bromophenyl)imidazole (2.13 g) was treated with ethyl 8-bromooctanoate (2 g) and K2CO3 (0.5 g) in 2-butanone as described in Example 9 to give ethyl 8-(4,5-di-(4-bromophenyl)imidazol-1-yl)-octanoate (2.2 g, 52%) as a pale yellow oil.; Found: C, 55.13; H, 5.19; N, 5.18; Br; 8.76%; C28H28Br2N2O2 requires: C, 54.76; H, 5.15; N, 5.11; Br, 29.15%

reactant | 4,5-Di-(4-bromophenyl)imidazole | 2.13 g | BrC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)Br | C15H10Br2N2
reactant | ethyl 8-bromooctanoate | 2 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | K2CO3 | 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | ethyl 8-(4,5-di-(4-bromophenyl)imidazol-1-yl)-octanoate | 2.2 g, 52% | BrC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)Br)CCCCCCCC(=O)OCC | C25H28Br2N2O2
